US04843066
10 g of 5-amino-1-β-D-ribofuranosyl-4-imidazolecarbonitrile was dissolved in 20% ammonia methanol solution. 10 ml of acetonitrile was added thereto and the solution was heated for 5 hours at 180° C. The solvent was distilled off, purified by silica gel column chromatography and recrystallized from methanol to give 4.2 g of 2-methyladenosine (yield: 35.9%). 2-methyladenosine was methylated in the same manner as the above-mentioned [METHOD 1] to give Compound 5 and Compound 6.

reactant | 5-amino-1-β-D-ribofuranosyl-4-imidazolecarbonitrile | 10 g | NC1=C(N=CN1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C#N | C9H12N4O4
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ammonia methanol | CO.N
product | 2-methyladenosine | 4.2 g, yield: 35.9% | CC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C11H15N5O4
